US09193720B2
A solution of 2-(5-methylthiophen-2-yl)acetic acid (200 mg, 1.280 mmol) in dry THF (10 mL) was carefully added over 2 min to solution of 1M LAH (2.56 mL, 2.56 mmol) at 0° C. The reaction mixture was allowed to warm to rt and was stirred for 6 h. The reaction was quenched with 0.2 mL of water (stir for 10 min), 0.2 mL of 15% NaOH/water (stir for 10 min), and then 0.4 mL of water. After stirring for 18 h, the mixture was filtered through celite. The filtrate was concentrated in vacuum. The residue was dried under high vacuum for 16 h to afford 2-(5-methylthiophen-2-yl)ethanol (150 mg, 1.055 mmol, 82% yield) as clear viscous oil. 1H NMR (500 MHz, CDCl3) δ 6.67 (d, J=3.3 Hz, 1H), 6.64-6.57 (m, 1H), 3.85 (t, J=6.2 Hz, 2H), 3.02 (t, J=6.2 Hz, 2H), 2.47 (s, 3H).

reactant | 2-(5-methylthiophen-2-yl)acetic acid | 1.280 mmol, 200 mg | CC1=CC=C(S1)CC(=O)O | C7H8O2S
reactant | LAH | 2.56 mmol, 1M, 2.56 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(5-methylthiophen-2-yl)ethanol | 1.055 mmol, 150 mg, 82% yield | CC1=CC=C(S1)CCO | C7H10OS
